Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Facial Droop/ Dysarthria 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is a ___ year old female with history of dementia, 
hypertension, frequent falls, who initially presented to ___ 
___ on ___ with right facial droop and slurred speech, 
code stroke called, with ___ showing possible 3 mm right 
lateral medulla petechial hemorrhage versus artifact. She
was also noted to have severe anemia with Hb/HCT 3.6/___, 
transfused 2 units PRBC and transferred to ___ for further 
management given severe anemia and possible acute stroke.

 
Past Medical History:
Hypertension
Dementia
Hyponatremia
Hypothyroidism
Left fifth metatarsal fracture
T11 compression fracture
Right BRCA
Status post cholecystectomy
Right Bell palsy 

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
=======================
Vitals: T 97.6 149/65 104 18 97 Ra  
GENERAL: Comfortable, in NAD
HEENT: NC/AT, PERRLA, EOMI. Scleral pallor
NECK: Supple, no lymphadenopathy, no elevated JVD
CARDIAC: Tachycardic, regular rhythm, no murmurs, rubs, or
gallops
LUNGS: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi
ABDOMEN: Soft, NT/ND.  Normoactive bowel sounds.  No evidence of
organomegaly
EXTREMITIES: 2+ peripheral pulses, no C/C/AT
NEUROLOGIC: +right facial drop. Dysarthria. Other CN intact. 
Motor strength ___ in all 4 extremities. Sensation intact
SKIN: No rashes, ulceration, or evidence of skin breakdown

DISCHARGE PHYSICAL EXAM
=======================
Vitals: ___ 0734 Temp: 97.6 PO BP: 122/64 HR: 77 RR: 18 O2
sat: 94% O2 delivery: Ra 

PHYSICAL EXAM:
GENERAL: Elderly female resting in bed in NAD. Has EEG leads on.
HEENT: NC/AT, EOMI. Scleral pallor, Moist mucous membranes. 
NECK: Supple, no lymphadenopathy, JVP not elevated. 
CARDIAC: Regular rate, regular rhythm, no murmurs, rubs, or
gallops
LUNGS: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi
ABDOMEN: Soft, non-tender, non-distended. +Bowel Sounds. 
EXTREMITIES: 2+ peripheral pulses, no C/C/AT
NEUROLOGIC: +right facial drop. +tongue deviation to right.
Dysarthria. Other CN intact.  Motor strength ___ in all 4
extremities. Sensation intact. 
SKIN: No rashes, ulceration, or evidence of skin breakdown
 
Pertinent Results:
DISCHARGE LAB WORK
==================
___ 07:20AM BLOOD WBC-6.7 RBC-3.11* Hgb-7.7* Hct-25.6* 
MCV-82 MCH-24.8* MCHC-30.1* RDW-22.2* RDWSD-63.1* Plt ___
___ 07:20AM BLOOD Plt ___
___ 07:20AM BLOOD ___ PTT-25.4 ___
___ 07:20AM BLOOD Glucose-89 UreaN-14 Creat-0.8 Na-137 
K-4.2 Cl-105 HCO3-22 AnGap-10
___ 07:20AM BLOOD Calcium-8.1* Phos-2.2* Mg-2.2

ADMISSION LAB WORK:
===================
___ 06:25PM BLOOD WBC-9.1 RBC-2.34* Hgb-5.2* Hct-17.6* 
MCV-75* MCH-
22.2* MCHC-29.5* RDW-18.0* RDWSD-49.0* Plt ___
___ 06:25PM BLOOD Neuts-70.4 Lymphs-18.6* Monos-9.5 
Eos-0.7* Baso-0.2 NRBC-0.9* Im ___ AbsNeut-6.40* 
AbsLymp-1.69 AbsMono-0.86* AbsEos-0.06 AbsBaso-0.02
___ 06:25PM BLOOD Plt ___
___ 06:25PM BLOOD Ret Aut-1.70 Abs Ret-0.0413
___ 06:25PM BLOOD Glucose-102* UreaN-37* Creat-0.9 Na-142 
K-4.7 Cl-108 HCO3-19* AnGap-15
___ 06:25PM BLOOD ALT-9 AST-15 AlkPhos-55 TotBili-1.0
___ 11:30PM BLOOD CK-MB-<1 cTropnT-<0.01
___ 06:25PM BLOOD cTropnT-<0.01
___ 06:25PM BLOOD Albumin-3.4* Calcium-9.1 Phos-4.0 Mg-2.3 
Iron-56
___ 06:25PM BLOOD calTIBC-394 VitB12-1757* Folate->20 
___ Ferritn-5.2* TRF-303
___ 07:20AM BLOOD %HbA1c-5.0 eAG-97
___ 07:20AM BLOOD Triglyc-97 HDL-47 CHOL/HD-2.5 LDLcalc-50
___ 06:25PM BLOOD cTropnT-<0.01
___ 11:30PM BLOOD CK-MB-<1 cTropnT-<0.01

IMAGING AND OTHER STUDIES:
==========================

* CT Head WO Contrast (___) ___: 
1. No subacute infarct identified.
2. Question of a 3 mm area of petechial hemorrhage versus 
artifact in the right lateral medulla. 

* CXR ___: No acute pulmonary infiltrates. 

* MRI HEAD
-----------
There is no evidence of acute infarction.  No intracranial 
hemorrhage. No 
mass, mass effect, edema or midline shift. The ventricles and 
sulci are enlarged.  Periventricular and subcortical white  
matter FLAIR hyperintensities are noted, a nonspecific finding 
that most  likely represents the sequelae of chronic small 
vessel ischemic disease. There is gross preservation of the 
principal intracranial vascular flow voids. Mild mucosal 
thickening is seen throughout scattered ethmoid air cells and 
within the bilateral maxillary sinuses.  The frontal sinuses are 

underpneumatized.  The remainder of the visualized paranasal 
sinuses, middle ear cavities, and mastoid air cells are well 
aerated and clear.  Patient is status post bilateral lens 
replacement. 
  
1. No evidence for vascular territorial infarction.  No acute 
intracranial 
hemorrhage. 
2. Global parenchymal volume loss and evidence of chronic small 
vessel 
ischemic disease. 
 
* EEG: 
------
This is an abnormal continuous ICU EEG monitoring study because 
of slow background activity in the theta/delta range with poorly 
sustained 
slow posterior dominant rhythm. This is indicative of mild to 
moderate 
diffuse encephalopathy. Common causes are medications effect, 
toxic metabolic disturbances, or infections. This recording 
captured no pushbutton activations, epileptiform discharges or 
electrographic seizures. 
  

* CTA HEAD AND NECK
-------------------
CT HEAD WITHOUT CONTRAST: 
There is no evidence of acute large territory infarction, 
hemorrhage, edema, or mass.  The ventricles and sulci are 
prominent compatible with age-related involutional changes. The 
visualized portion of the paranasal sinuses, mastoid air cells, 
and middle ear cavities are clear. The visualized portion of the 
orbits are unremarkable. 
  
CTA HEAD: Punctate vascular arteriosclerotic calcifications are 
visualized in the carotid siphons bilaterally, however, the 
vessels of the circle of ___ and their principal intracranial 
branches appear patent l without stenosis, occlusion, or 
aneurysm formation.  The dural venous sinuses are patent. 
  
CTA NECK: Atherosclerotic calcifications are visualized within 
the bilateral bulbs and carotid side with no substantial 
stenosis or occlusion identified.  The vertebral arteries and 
their major branches appear normal with no evidence of stenosis 
or occlusion. There is no evidence of internal carotid stenosis 
by NASCET criteria.  Motion artifacts are visualized in the 
ascending aorta (image 1, series 3), partially evaluated in this 
exam, if clinically warranted, correlation with CTA of the chest 
is recommended. 
  
OTHER: 
Bilateral scarring is visualized the lung apices.  The 
visualized portion of the thyroid gland is prominent though 
otherwise within normal limits.  There is no lymphadenopathy by 
CT size criteria. 
  
IMPRESSION:    
1. No acute intracranial abnormality identified. 
2. No focal stenosis, occlusion, or aneurysm formation 
identified within the head or neck. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old female with history of dementia, 
hypertension, and frequent falls, who initially presented to ___ 
___ on ___ with right facial droop and slurred speech 
and NCHCT showing possible 3 mm right lateral medulla petechial 
hemorrhage versus artifact. She was also found to have severe 
anemia HgB/HCT 3.6/15. She received 2U PRBC prior to transfer 
with post transfusion hemoglobin 5.2 and was admitted to ___ 
for possible stroke and anemia workup.

#Anemia 
#?Lower GI Bleed 
The patient initially presented with severe anemia HgB/HCT 
___ at ___. She received a 2 U PRBC transfusion with 
a post-transfusion HgB of 5.2. Upon arrival to ___ she 
received an additional 2units with bump to 8.1. The patient was 
found to be stool guaiac positive in the ED and GI was 
consulted. Per GI, no role for urgent scope given the 
possibility of acute stroke at that time. She was started on an 
IV PPI BID, her aspirin was held, and she was admitted to 
medicine. Her stroke work up was negative (see below), and GI 
was reconsulted. The patient's family was unsure if having an 
endoscopy was within the patient's goals of care, and given that 
the patient's HgB had stabilized between 7.5-8.5 and that she 
was hemodynamically stable, the decision was made to defer an 
endoscopy while inpatient and have close follow up with GI. The 
patient's iron studies were consistent with severe iron 
deficiency anemia and she was given one dose of IV iron and 
started on PO iron supplementation upon discharge. Prior to 
discharge she was restarted on ASA at a lower dose (81mg PO QD 
instead of her home 325mg PO QD). She was discharged with 
instructions to follow up with her PCP and GI next week and with 
plans for a repeat CBC early next week. Of note, on the day of 
discharge, the patient endorsed having vaginal bleeding and 
"periods" prior to this admission (although no vaginal bleeding 
noted while inpatient). She should have a follow up appointment 
with GYN or GYN/ONC to evaluate for a possible uterine/GU 
malignancy as a cause of her severe anemia. 

#R facial droop
#Dysarthria 
The patient initially presented to ___ with right-sided 
facial droop and dysarthria. A code stroke was called and she 
had a ___ showing a possible 3 mm right lateral medulla 
petechial hemorrhage versus artifact. She was transferred to 
___ and neurology was consulted in the ED and recommended a 
CTA. The CTA Head and Neck showed no obvious medulla hemorrhage 
or other acute findings. The patient subsequently had a MRI 
brain which did not show any evidence of an acute stroke. Per 
neurology recommendations, an EEG was done which showed diffuse 
slowing but no seizure activity. Upon speaking with her family, 
they felt that her neurologic state and exam was consistent with 
her baseline and did not notice any acute changes. Given the 
negative work up as detailed above, the patient's symptoms were 
thought to be secondary to a TIA vs. secondary to severe anemia 
vs. progression of her known neurologic deficits and facial 
droop.  

# EKG Changes 
On arrival to the medical floor the patient had an EKG showing 
TWI v1-v6, with ___epressions in anterolateral leads which 
were new compared to an EKG done upon presentation to ___ 
___. The patient had no chest pain and her previous 
troponins drawn in ED were negative. This was thought to be 
demand EKG changes in the setting of severe anemia. 

#HTN 
The patient is on Amlodipine 5mg PO QD and Lisinopril 10mg PO QD 
per fill history which were held while inpatient, but resumed 
upon discharge, 

TRANSITIONAL ISSUES: 
[] The patient should follow up with her PCP (appointment 
arranged) and will need to have a CBC drawn early next week 
(___). If down trending patient may need more urgent GI 
intervention appointment. If down trending ASA should be 
stopped.
[] The patient needs to have GYN follow up or GYN/ONC follow up. 
On the day of discharge she endorsed having vaginal bleeding and 
periods while at home prior to admission. Concerned for possible 
GU malignancy contributing to her anemia. 
[] Patient will need GI follow up and possible EGD - family is 
still discussing whether this will be within goals of care:
[] Discuss goals of care and if procedures such as an EGD are 
within her goals of care
[] Discuss utility of adding on a statin given patient's 
vascular disease (including possible TIA, aortic and other major 
blood vessel calcification on CTA). 
[] Discuss long term utility of ASA 
[] Amlodipine and lisinopril held; restart if needed for BP 
control (has been normotensive without them here)
[] recheck A1c and lipids as outpatient
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. QUEtiapine Fumarate 25 mg PO QHS 
2. Lisinopril 10 mg PO DAILY 
3. amLODIPine 5 mg PO DAILY 
4. Aspirin 325 mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Metoprolol Tartrate 25 mg PO BID 

 
Discharge Medications:
1.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*2 
2.  Aspirin 81 mg PO DAILY  
3.  amLODIPine 5 mg PO DAILY  
4.  Lisinopril 10 mg PO DAILY  
5.  Metoprolol Tartrate 25 mg PO BID  
6.  QUEtiapine Fumarate 25 mg PO QHS  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute GI Bleed
TIA 
Bells Palsy

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___.

WHY WAS I IN THE HOSPITAL?
- You were admitted to the hospital because you were found to 
have new signs and symptoms concerning for a stroke as well as 
very low blood levels (anemia) 

WHAT HAPPENED TO ME IN THE HOSPITAL?
- While you were in the hospital you had multiple scans of your 
head (including 2 CT scans and an MRI) which showed that you did 
not have a stroke. 
- Our neurologists saw you and recommended getting a study 
called an EEG to see if your signs & symptoms were due to a 
seizure. This showed no seizures. 
- You were given 4 units of blood which helped correct your 
anemia (low blood levels)
- You were seen by the GI doctors who ___ that your low blood 
levels were due to bleeding from you gastrointestinal tract. 
- You were given a medication to help stop/prevent bleeding. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.
- You need to follow up with your primary care doctor and the 
gastroenterology (GI) doctors. 
- You should continue to take all of your medications exactly as 
prescribed. 
- See the sections as below for a list of all of your follow up 
appointments and medications 

We wish you the best!

Sincerely,
Your ___ Team

 
Followup Instructions:
___